* D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\N_2\circuito_1\simulaciones\sumador.asc
XU1 0 N001 vcc vss vo LM324
V1 vcc 0 10
V2 0 vss 10
V3 vin1 0 AC {Vac1}
V4 vin2 0 AC {Vac2}
R2 N002 N001 {Ra}
R3 0 N002 {Rc}
R4 N002 vo {Rb}
R5 N001 vin2 {R}
R1 N001 vin1 {R}
.lib "D:\dario\cuarto\sintesis de redes\repoSistesisDeRedes\Laboratorios\LM324.lib.txt"
.param R=1Meg, Ra=150k,Rb=200k,Rc=1000
.param Vac1=1, Vac2=0
.ac dec 100 1 1Meg
.backanno
.end
